US05977178
A solution of (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-phenylpropionic acid (4.00 g, 14.32 mmol) in N,N-dimethylformamide (10 ml) was cooled to 0° C. Ammonium hydrogen carbonate (5.66 g, 71.60 mmol) was added as a solid. 1-Hydroxybenzotriazole hydrate (1.94 g, 14.32 mmol) and successively N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (2.75 g, 14.32 mmol) were added. The suspension was stirred for 16 h, while warming up to room temperature. The reaction mixture was diluted with ethyl acetate (150 ml) and extracted with saturated sodium chloride solution/water (200 ml/300 ml). The aqueous phase was extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with saturated sodium hydrogen carbonate solution and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash-chromatography on silica (70 g), using ethyl acetate/heptane as eluent, to give 2.80 g of N-((1R)-1-carbamoyl-2-phenylethyl)-N-methylcarbamic acid tert.-butylester.

reactant | (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-phenylpropionic acid | 14.32 mmol, 4.00 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC=CC=C1 | C15H21NO4
reactant | Ammonium hydrogen carbonate | 71.60 mmol, 5.66 g | C(O)([O-])=O.[NH4+]
reactant | 1-Hydroxybenzotriazole hydrate | 14.32 mmol, 1.94 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 14.32 mmol, 2.75 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-((1R)-1-carbamoyl-2-phenylethyl)-N-methylcarbamic acid tert.-butylester | 2.80 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=CC=C1)C(N)=O)=O | C15H22N2O3
